US08217028B2
To methylmagnesium bromide solution (3 mol/L in diethyl ether, 0.4 mL) stirred under nitrogen at 0° C. was added a solution of 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole (D51) (354 mg) in diethyl ether (5 mL) dropwise. The reaction mixture was stirred at 0° C. for 30 mins. Ethyl bromoacetate (0.13 mL) in toluene (15 mL) was added dropwise. The resulting mixture was stirred at room temperature for 24 h. The reaction mixture was quenched with saturated ammonium chloride solution; the organic layer was separated and the solvent was evaporated off. The residue was dissolved in tetrahydrofuran (5 mL) and sodium hydroxide (40 mg) in water (5 mL) was added. The reaction mixture was stirred at room temperature for 6 hours. Evaporated off the organic solvent, extracted with ether (100 mL), the water layer was separated and acidified with HCl (1 M) to pH around 1. The solid was filtered and purified by Mass Directed Auto Prep to afford [7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]acetic acid (E31) (86 mg) as a yellow solid. δH (DMSO-d6, 400 MHz): 1.37 (6H, d), 3.74 (2H, s), 4.87-4.93 (1H, m), 7.22 (1H, t), 7.40 (1H, d), 7.45 (1H, d), 7.78 (1H, d), 7.95 (1H, d), 8.21 (1H, dd), 8.37 (1H, d), 10.91 (1H, s), 12.19 (1H, br s). MS (ES): C21H18ClN3O4 requires 411; found 412.1 (M+H+).

reactant | methylmagnesium bromide | 3 mol/L, 0.4 mL | C[Mg]Br
reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole | 354 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C=CNC12 | C19H16ClN3O2
reactant | Ethyl bromoacetate | 0.13 mL | BrCC(=O)OCC | C4H7BrO2
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | [7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]acetic acid | 86 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CC(=O)O | C21H18ClN3O4
